US08557809B2
Step G: Preparation of 2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)-8-bromo-6-fluoroquinoline
(E)-1-((8-Bromo-6-fluoroquinolin-2-yl)methylene)-2-(pyridin-2-yl)hydrazine (100 mg, 0.290 mmol) was weighed into a 25 mL 1 neck round bottom flask and suspended in 6.0 mL of DCM, followed by addition of iodobenzene diacetate (103 mg, 0.32 mmol). The reaction was stirred at 23° C. overnight, after which all starting materials had been consumed. The reaction was transferred to a reparatory funnel and partitioned between 30 mL DCM and 30 mL Na2SO3, and the aqueous layer was washed with DCM. The combined organics were dried over magnesium sulfate and concentrated in vacuo to afford a white/yellow powder. The powder was triturated with 10 mL of anhydrous Et2O, affording the desired product as a white solid (74 mg, 74.4% yield). MS APCI (+) m/z 343 (M+1) detected.

reactant | (E)-1-((8-Bromo-6-fluoroquinolin-2-yl)methylene)-2-(pyridin-2-yl)hydrazine | 0.290 mmol, 100 mg | BrC=1C=C(C=C2C=CC(=NC12)\C=N\NC1=NC=CC=C1)F | C15H10BrFN4
reactant | iodobenzene diacetate | 0.32 mmol, 103 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | 2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)-8-bromo-6-fluoroquinoline | 74 mg, 74.4% yield | N=1N=C(N2C1C=CC=C2)C2=NC1=C(C=C(C=C1C=C2)F)Br | C15H8BrFN4
